US06252082B1
Methyl 4-(cyclohexylmethyl)-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate
This compound is prepared from 3 g (8 mmol) of methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)-sulphonyl]oxy]-1,2-dihydropyridine-1-acetate and 5.45 g (24.3 mmol) of cyclohexylmethyl iodide according to the method described in Example 1.5. 1.3 g of product are obtained in the form of yellow crystals.

reactant | methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)-sulphonyl]oxy]-1,2-dihydropyridine-1-acetate | 8 mmol, 3 g | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H9F3N2O8S
reactant | cyclohexylmethyl iodide | 24.3 mmol, 5.45 g | C1(CCCCC1)CI | C7H13I
product | Methyl 4-(cyclohexylmethyl)-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate | 1.3 g, Yield=50% | C1(CCCCC1)CC1=C(C(N(C(=C1)C)CC(=O)OC)=O)[N+](=O)[O-] | C16H22N2O5
